US09034866B2
Synthesis of (±)-methyl 10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate
methyl 10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate was reacted with 4-methylthiazole-5-carboxaldehyde to afford the crude title compound which was carried forward without further purification.

reactant | Methyl 10-bromo-9-fluoro-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)OC)C1)F | C13H10BrFN2O3
reactant | 4-methylthiazole-5-carboxaldehyde | CC=1N=CSC1C=O | C5H5NOS
product | (±)-methyl 10-bromo-9-fluoro-3-[hydroxy-(4-methylthiazol-5-yl)methyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)OC)C(C3=C(N=CS3)C)O)C1)F | C18H15BrFN3O4S
